* Z:\mnt\design.r\spice\examples\1976B.asc
L1 N002 OUT 33µ Rpar=2K
C1 N006 N005 .01µ
C2 N002 N001 .33µ
D1 0 N002 MBRS340
C3 OUT 0 100µ Rser=100m
R1 OUT N007 165K
R2 N007 0 100K
D2 OUT N001 1N4148
V1 IN 0 20
C5 OUT N004 .01µ
R3 N005 0 10K
C6 N008 0 1n
R4 N003 OUT 100K
XU1 MP_01 N002 MP_02 IN MP_03 N001 N008 0 N004 OUT N006 N007 N007 MP_04 IN N003 LT1976B
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2.5m startup
.lib LT1976B.sub
.backanno
.end
